US05336778
Step B: 4-(4-Nitrobenzyl)-3-thiosemicarbazide
A solution of 187 g (772 mmole) of methyl N-(4-nitrobenzyl)dithiocarbamate and 450 ml of hydrazine hydrate in 1400 ml of absolute ethanol was stirred mechanically and heated to reflux. Precipitation began by the time the internal temperature reached about 40° C. After 2 hours at reflux, the mixture was cooled and allowed to stand at room temperature. The solid was collected on a filter, washed with ethanol, and dried to give 105 g (60%) of light yellow crystals, mp 196°-198° C. satisfactory purity by TLC in 95:5:0.5 CH2Cl2 --MeOH-concd NH4OH; mass spectrum (FAB) m/e 227 (M+1)+.

reactant | methyl N-(4-nitrobenzyl)dithiocarbamate | 772 mmole, 187 g | [N+](=O)([O-])C1=CC=C(CNC(SC)=S)C=C1 | C9H10N2O2S2
reactant | hydrazine hydrate | 450 ml | O.NN
solvent | ethanol | 1400 ml | C(C)O | C2H6O
product | 4-(4-Nitrobenzyl)-3-thiosemicarbazide | [N+](=O)([O-])C1=CC=C(CNC(NN)=S)C=C1 | C8H10N4O2S
